US04532240
5-[4-(Phenylmethyl)-1-piperazinyl]-6-propyl-2,4(1H,3H)-pyrimidinedione
A mixture of 53.3 g (0.229 mole) of 5-bromo-6-propyl-2,4(1H,3H)pyrimidinedione and 23.7 g (0.252 mole) of anhydrous potassium fluoride in 176 ml (1.0 mole) of 1-benzylpiperazine was heated under reflux at 140° C. for 14 hours. The reaction mixture was cooled to 80° C. and 100 ml of ethanol was added. The mixture was poured into one liter of ice water. The solid was collected and washed with one liter of water. Recrystallization from ethanol and drying in vacuo at 59° C. for 16 hours gave 44.1 g of the product as an off-white solid; mp 233°-235° C.

reactant | 5-bromo-6-propyl-2,4(1H,3H)pyrimidinedione | 0.229 mole, 53.3 g | BrC=1C(NC(NC1CCC)=O)=O | C7H9BrN2O2
reactant | potassium fluoride | 0.252 mole, 23.7 g | [F-].[K+]
reactant | 1-benzylpiperazine | 1.0 mole, 176 ml | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5-[4-(Phenylmethyl)-1-piperazinyl]-6-propyl-2,4(1H,3H)-pyrimidinedione | 44.1 g | C1(=CC=CC=C1)CN1CCN(CC1)C=1C(NC(NC1CCC)=O)=O | C18H24N4O2
